US07615550B2
E76b: 1-(4-{[3-(2-Methyl-1-piperidinyl)propyl]oxy}phenyl)piperazine
1,1-Dimethylethyl 4-(4-{[3-(2-methyl-1-piperidinyl) propyl]oxy}phenyl)-1-piperazinecarboxylate (E76a) (1.66 g) was dissolved in dry dichloromethane (25 ml) and stirred under nitrogen. 50% Trifluoroacetic acid in dichloromethane (5 ml) was added, and the mixture was stirred at room temperature for 4 h. Saturated sodium bicarbonate solution was then added and the mixture was extracted with dichloromethane. The organic phase was separated using a hydrophobic frit, and evaporated in vacuo, however, most of the product was in the aqueous phase. The product was removed from the aqueous phase using an OASIS cartridge, washing with water and eluting with methanol, and further purified using an aminopropyl bond elut cartridge, eluting with dichloromethane and then SCX cartridge, eluting with 50% [0.880 ammonia-methanol (1:9)]-dichloromethane to give the title compound (0.94 g). LCMS RT=1.01 min, ES+ve m/z=318 (M+H)+

reactant | 1,1-Dimethylethyl 4-(4-{[3-(2-methyl-1-piperidinyl) propyl]oxy}phenyl)-1-piperazinecarboxylate | 1.66 g | CC1N(CCCC1)CCCOC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C24H39N3O3
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4-{[3-(2-Methyl-1-piperidinyl)propyl]oxy}phenyl)piperazine | 0.94 g | CC1N(CCCC1)CCCOC1=CC=C(C=C1)N1CCNCC1 | C19H31N3O
